US07737153B2
5-(2-Fluoro-4-nitrophenoxy)-1H-indazole
5.00 g (37.3 mmol) of 5-hydroxyindazole are dissolved in 40 ml of anhydrous DMF. 5.93 g (37.3 mmol) of 3,4-difluoronitrobenzene and 5.15 g (37.3 mmol) of potassium carbonate are added, and the mixture is stirred at 40° C. overnight. For work-up, the mixture is filtered off with suction through kieselguhr, diluted with water and extracted three times with ethyl acetate. The combined organic phases are washed 1× with saturated aqueous sodium chloride solution, dried over sodium sulfate and concentrated using a rotary evaporator. The residue is chromatographed twice on silica gel using cyclohexane/ethyl acetate 3:1→1:1→1:2 and then purified by preparative HPLC.

reactant | 5-hydroxyindazole | 37.3 mmol, 5.00 g | OC=1C=C2C=NNC2=CC1 | C7H6N2O
reactant | 3,4-difluoronitrobenzene | 37.3 mmol, 5.93 g | FC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3F2NO2
reactant | potassium carbonate | 37.3 mmol, 5.15 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
product | 5-(2-Fluoro-4-nitrophenoxy)-1H-indazole | FC1=C(OC=2C=C3C=NNC3=CC2)C=CC(=C1)[N+](=O)[O-] | C13H8FN3O3
